US04185020
A. 5-(p-Nitrophenyl)furfuryl alcohol
To a heated suspension of 5-(4-nitrophenyl)-2-furancarboxaldehyde (176 g., 0.8 m.) and 1000 ml of ethanol was added a suspension of sodium borohydride (82 g.) in 1500 ml of ethanol. The solids dissolved and the solution turned very dark. The solution was stirred without external heating until hydrogen ceased to be evolved (22 hours). Upon stirring, the material solidified (pH 9-11). To the suspension was added a 5 percent sulfuric acid solution until the solution was just acidic (600 ml., pH 5-6). The dark mixture was dissolved upon heating at 60°-70° C. for 1 hour. After cooling, the solids were filtered and the filtrate was diluted with water to ppt. the product. The solids were extracted with boiling SDA-32 and the extracts were diluted with water. Total yield of 5-(p-nitrophenyl)-furfuryl alcohol was 150 grams (85%).

reactant | 5-(4-nitrophenyl)-2-furancarboxaldehyde | 176 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7NO4
reactant | sodium borohydride | 82 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 1500 ml | C(C)O | C2H6O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 5-(p-Nitrophenyl)furfuryl alcohol | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(CO)O1 | C11H9NO4
